US07300935B2
The similar reaction as described in Example 5 by using 4-(N-benzyl-N-methylaminomethyl)-2-(N-(2,6-difluorobenzyl)-N-ethoxycarbonylamino)-5-(4-(3-methoxyureido)phenyl)thiophene-3-carboxylic acid (5.0 g, 7.83 mmol) and p-anisidine (1.93 g, 15.65 mmol) gave N-(4-(5-((benzyl(methyl)amino)methyl)-1-(2,6-difluorobenzyl)-3-(4-methoxyphenyl)-2,4-dioxo-1,2,3,4-tetrahydrothieno[2,3-d]pyrimidin-6-yl)phenyl)-N′-methoxyurea (3.39 g, 62%) as white solids. The similar reaction as described in Reference Example 18 by using the compound (80 mg, 0.11 mmol) gave the title compound (50 mg, 74%) as white crystals.

reactant | 4-(N-benzyl-N-methylaminomethyl)-2-(N-(2,6-difluorobenzyl)-N-ethoxycarbonylamino)-5-(4-(3-methoxyureido)phenyl)thiophene-3-carboxylic acid | 7.83 mmol, 5.0 g | C(C1=CC=CC=C1)N(C)CC=1C(=C(SC1C1=CC=C(C=C1)NC(=O)NOC)N(C(=O)OCC)CC1=C(C=CC=C1F)F)C(=O)O | C32H32F2N4O6S
reactant | p-anisidine | 15.65 mmol, 1.93 g | COC1=CC=C(C=C1)N | C7H9NO
product | N-(4-(5-((benzyl(methyl)amino)methyl)-1-(2,6-difluorobenzyl)-3-(4-methoxyphenyl)-2,4-dioxo-1,2,3,4-tetrahydrothieno[2,3-d]pyrimidin-6-yl)phenyl)-N′-methoxyurea | 3.39 g, 62% | C(C1=CC=CC=C1)N(C)CC1=C(SC=2N(C(N(C(C21)=O)C2=CC=C(C=C2)OC)=O)CC2=C(C=CC=C2F)F)C2=CC=C(C=C2)NC(=O)NOC | C37H33F2N5O5S
